### PR TITLE
Add Grimm's conjecture

### PR DESCRIPTION
**Pull request by Reklle**
I'm not sure about the `IsSetOfPrimes` approach.

### CODE REVIEW

File: FormalConjectures/Wikipedia/Grimm.lean [hunk 1]
```diff
@@ -0,0 +1,41 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Grimm's conjecture
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Grimm%27s_conjecture)
+-/
+
+def IsSetOfPrimes (k : ℕ+) (ps : Fin k → ℕ) : Prop :=
+  (∀ i : Fin k, Prime (ps i)) ∧ (∀ (i : Fin k) (j : Fin k), ps i = ps j → i = j)
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Grimm.lean]: There's [Function.Embedding](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Embedding/Basic.html#Function.Embedding) to express injective functions.
Also I suggest using `Nat.Prime` via `(ps i).Prime`.

Tip: you can write `i j : Fin k` (though I think removing unnecessary type ascriptions might make the statements cleaner).

File: FormalConjectures/Wikipedia/Grimm.lean [hunk 2]
```diff
@@ -0,0 +1,42 @@
...
+def IsSetOfPrimes (k : ℕ+) (ps : Fin k → ℕ) : Prop :=
+  (∀ i : Fin k, (ps i).Prime) ∧ Injective ps
+
+/--
+If $n, n+1, \dots, n+k-1$ are all composite numbers,
+then there are $k$ distinct primes $p_i$ such that $p_i$ divides $n + i$ for
+-/
+@[category research open, AMS 11]
+theorem grimm_conjecture (n k : ℕ+) (h: ∀ (i : Fin k), Prime (n + i)) :
+    ∃ (ps : Fin k → ℕ), IsSetOfPrimes k ps ∧ (∀ i : Fin k, ps i ∣ (n + i)) := by
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Grimm.lean]: The assumption is that `n + i` are composite, not prime! (same below)
```suggestion
theorem grimm_conjecture (n : ℕ+) (k : ℕ+) (h : ∀ i : Fin k, ¬ (n + i).Prime) :
    ∃ (ps : Fin k → ℕ), IsSetOfPrimes k ps ∧ (∀ i : Fin k, ps i ∣ (n + i)) := by
```

File: FormalConjectures/Wikipedia/Grimm.lean [hunk 3]
```diff
@@ -0,0 +1,42 @@
...
+  sorry
+
+/--
+If $n, n+1, \dots, n+k-1$ are all composite numbers,
+then their product has at least $k$ distinct prime divisors.
+-/
+@[category research open, AMS 11]
+theorem grimm_conjecture_weak (n k : ℕ+) (h: ∀ (i : Fin k), Prime (n + i)) :
+    ∃ (ps : Fin k → ℕ), IsSetOfPrimes k ps ∧ (∀ (i : Fin k), ∃ (j : Fin k), ps i ∣ (n + j)) := by
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Grimm.lean]:
```suggestion
theorem grimm_conjecture (n k : ℕ+) (h : ∀ i : Fin k, ¬ (n + i).Prime) :
    ∃ ps : Fin k → ℕ, IsSetOfPrimes k ps ∧ ∀ i : Fin k, ps i ∣ (n + i) := by
  sorry

/--
If $n, n+1, \dots, n+k-1$ are all composite numbers,
then their product has at least $k$ distinct prime divisors.
-/
@[category research open, AMS 11]
theorem grimm_conjecture_weak (n k : ℕ+) (h : ∀ (i : Fin k), ¬ (n + i).Prime) :
    ∃ ps : Fin k → ℕ, IsSetOfPrimes k ps ∧ ∀ i : Fin k, ∃ j : Fin k, ps i ∣ (n + j) := by
```

Comment (Reklle) [reply FormalConjectures/Wikipedia/Grimm.lean]: Thank you! It was too much of brackets

File: FormalConjectures/Wikipedia/Grimm.lean [hunk 4]
```diff
@@ -0,0 +1,45 @@
...
+open Function
+
+/-!
+# Grimm's conjecture
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Grimm%27s_conjecture)
+-/
+
+def IsSetOfPrimes (k : ℕ+) (ps : Fin k → ℕ) : Prop :=
+  (∀ i : Fin k, (ps i).Prime) ∧ Injective ps
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Grimm.lean]: I would not add this definition, and just write in the two conditions manually in the theorems below (I've made the corresponding changes as suggestions below)

File: FormalConjectures/Wikipedia/Grimm.lean [hunk 5]
```diff
@@ -0,0 +1,45 @@
...
+
+/--
+If $n, n+1, \dots, n+k-1$ are all composite numbers,
+then there are $k$ distinct primes $p_i$ such that $p_i$ divides $n + i$ for
+-/
+@[category research open, AMS 11]
+theorem grimm_conjecture (n k : ℕ+) (h : ∀ i : Fin k, ¬ (n + i : ℕ).Prime) :
+    ∃ ps : Fin k → ℕ, IsSetOfPrimes k ps ∧ ∀ i : Fin k, ps i ∣ (n + i) := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Grimm.lean]:
```suggestion
theorem grimm_conjecture (n k : ℕ) (hn : 1 ≤ n) (hk : 1 ≤ k)
    (h : ∀ i : Fin k, ¬ (n + i : ℕ).Prime) :
    ∃ ps : Fin k ↪ ℕ,  ∀ i : Fin k, (ps i).Prime ∧ ps i ∣ (n + i) := by
```
Here I've incorporated the definition of `IsSetOfPrimes` (and used notation for `Function.Embedding`). I've also avoided `(n k : ℕ+)` in favor of ` (hn : 1 ≤ n) (hk : 1 ≤ k)`, since when doing proofs in lean the type `ℕ+` can be a bit annoying to work with due to coercions.

File: FormalConjectures/Wikipedia/Grimm.lean [hunk 6]
```diff
@@ -0,0 +1,45 @@
...
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Grimm%27s_conjecture)
+-/
+
+def IsSetOfPrimes (k : ℕ+) (ps : Fin k → ℕ) : Prop :=
+  (∀ i : Fin k, (ps i).Prime) ∧ Injective ps
+
+/--
+If $n, n+1, \dots, n+k-1$ are all composite numbers,
+then there are $k$ distinct primes $p_i$ such that $p_i$ divides $n + i$ for
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Grimm.lean]:
```suggestion
**Grimm's Conjecture**
If $n, n+1, \dots, n+k-1$ are all composite numbers, then there are $k$ distinct primes $p_i$
such that $p_i$ divides $n + i$ for all $0 \le i \le k-1$.
```
Could you make a similar change to the docstring in the weak version as well please?

File: FormalConjectures/Wikipedia/Grimm.lean [hunk 7]
```diff
@@ -0,0 +1,45 @@
...
+    ∃ ps : Fin k → ℕ, IsSetOfPrimes k ps ∧ ∀ i : Fin k, ps i ∣ (n + i) := by
+  sorry
+
+/--
+If $n, n+1, \dots, n+k-1$ are all composite numbers,
+then their product has at least $k$ distinct prime divisors.
+-/
+@[category research open, AMS 11]
+theorem grimm_conjecture_weak (n k : ℕ+) (h : ∀ (i : Fin k), ¬ (n + i : ℕ).Prime) :
+    ∃ ps : Fin k → ℕ, IsSetOfPrimes k ps ∧ ∀ i : Fin k, ∃ j : Fin k, ps i ∣ (n + j) := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Grimm.lean]:
```suggestion
theorem grimm_conjecture_weak (n k : ℕ) (hn : 1 ≤ n) (hk : 1 ≤ k)
    (h : ∀ i : Fin k, ¬ (n + i : ℕ).Prime) :
    ∃ ps : Fin k ↪ ℕ,  ∀ i : Fin k, (ps i).Prime ∧ ∃ j : Fin k, ps i ∣ (n + j) := by
```
